US07067540B2
N-[(5-{[3-Bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]methyl}pyrazin-2-yl)methyl]-N -methylmethanesulfonamide
To a suspension of 3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-1-({5-[(methylamino)methyl]pyrazin-2-yl}methyl)pyridin-2(1H)-one (0.16 g, 0.34 mmol) in acetonitrile at 0° C. was added triethylamine (0.043 g, 0.42 mmol), followed by the addition of methane sulfonylchloride (0.047 g, 0.41 mmol) and stirred at room temperature for 1 h under argon atmosphere. The solvents were removed in vacuo and the residue was triturated with water and filtered. It was washed with water an, acetonitrile and dried in vacuo to afford 0.11 g of material. 1H NMR (CD3OD/400 MHz) δ 8.62 (s, 1H), 8.55 (s, 1H), 7.61 (m, 1H), 7.0 (m, 2H), 6.53 (s, 1H), 5.47 (s, 2H), 5.29 (s, 2H), 4.49 (s, 2H), 2.95 (s, 3H), 2.85 (s, 3H), and 2.55 (s, 3H); 19F NMR (CD3OD/400 MHz) −111.70 (m) and −116.07 (m); ES-HRMS m/z 543.0515 (M+H calcd for C21H22BrF2N4O4S requires 543.0508).

reactant | 3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-1-({5-[(methylamino)methyl]pyrazin-2-yl}methyl)pyridin-2(1H)-one | 0.34 mmol, 0.16 g | BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)CC1=NC=C(N=C1)CNC)=O | C20H19BrF2N4O2
reactant | triethylamine | 0.42 mmol, 0.043 g | C(C)N(CC)CC | C6H15N
reactant | methane sulfonylchloride | 0.41 mmol, 0.047 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | acetonitrile | C(C)#N | C2H3N
product | N-[(5-{[3-Bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]methyl}pyrazin-2-yl)methyl]-N -methylmethanesulfonamide | 0.11 g | BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)CC=1N=CC(=NC1)CN(S(=O)(=O)C)C)=O | C21H21BrF2N4O4S
